US08420865B2
Synthesis of Perylene Bromide
After 3.0 g (11 mmol) of perylene was dissolved in 700 mL of dichloromethane, the solution was stirred for 5 minutes. To the solution, 2.11 g (12 mmol, 1.1 eq) of N-bromosuccinimide was dropwise added slowly at room temperature, followed by stirring overnight. The reaction solution was purified by silica gel column chromatography using a developing solvent adjusted to dichloromethane:hexane=1:1 to remove N-bromosuccinimide. After the solvent was concentrated, yellow crystals (yield 90%) were obtained. The compound was identified by 1H-NMR and ESI-MS.

reactant | perylene | 11 mmol, 3.0 g | C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45 | C20H12
reactant | N-bromosuccinimide | 12 mmol, 2.11 g, 1.1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
product | Perylene Bromide | yield 90% | [Br-].C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45 | InChI=1S/C20H12.BrH/c1-5-13-6-2-11-17-18-12-4-8-14-7-3-10-16(20(14)18)15(9-1)19(13)17;/h1-12H;1H/p-1
